US04404137
3-(2-Amino-4-nitroanilino)-1-methylpyrazole-4-carbonitrile
1-Methyl-3-(2,4-dinitroanilino)pyrazole-4-carbonitrile (2.88 g) was stirred in a mixture of 0.88 ammonia solution (60 ml), water (90 ml) and ethanol (60 ml) under reflux whilst a slow stream of hydrogen sulphide gas was bubbled through for 2 hours. The mixture was cooled, filtered and the residue crystallised from ethyl acetate-n-hexane to give the title compound m.p. 204° C.

reactant | 1-Methyl-3-(2,4-dinitroanilino)pyrazole-4-carbonitrile | 2.88 g | CN1N=C(C(=C1)C#N)NC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C11H8N6O4
reactant | ammonia | 60 ml | N | H3N
reactant | water | 90 ml | O | H2O
reactant | hydrogen sulphide | S | H2S
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 3-(2-Amino-4-nitroanilino)-1-methylpyrazole-4-carbonitrile | NC1=C(NC2=NN(C=C2C#N)C)C=CC(=C1)[N+](=O)[O-] | C11H10N6O2
